US04129654
A mixture of 7 g of 1-methyl-3-cyclohexyl-6-chlorouracil, 18 g of sodium acetate (trihydrate), 7 g of hydroxylamine hydrochloride and 100 ml of methyl-cellosolve is boiled for 1 hour and, when cold, the insolubles are removed by filtration. The filtrate is concentrated and recrystallized from water-ethanol. By the above procedure is obtained 4 g of 1-methyl-3-cyclohexyl-6-hydroxyaminouracil, melting point: 153°-155° C.

reactant | 1-methyl-3-cyclohexyl-6-chlorouracil | 7 g | CN1C(=O)N(C(=O)C=C1Cl)C1CCCCC1 | C11H15ClN2O2
reactant | sodium acetate | 18 g | C(C)(=O)[O-].[Na+]
reactant | hydroxylamine hydrochloride | 7 g | Cl.NO
solvent | methyl-cellosolve | 100 ml | COCCO | C3H8O2
product | 1-methyl-3-cyclohexyl-6-hydroxyaminouracil | 4 g | CN1C(=O)N(C(=O)C=C1NO)C1CCCCC1 | C11H17N3O3
